US05252732
To a stirred solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-methyl-3-(2-t-butyldimethylsilyloxyethyl)indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (200 mg.) in CH2Cl2 (6 mL.) and CH3OH (6 mL.) was added p-toluenesulfonic acid monohydrate (30 mg.). The reaction mixture was allowed to stir 3 hours. The reaction was quenched with saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The product was purified by preparative TLC on silica gel (1:1 hexanes/acetone) and again (7% CH3OH/CH2Cl2) giving -(4"-(1-methyl-3-(2-hydroxyethyl)indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-methyl-3-(2-t-butyldimethylsilyloxyethyl)indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 200 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C(=CN(C1=CC2)C)CCO[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C60H94N2O13Si
reactant | p-toluenesulfonic acid monohydrate | 30 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH | 6 mL | CO | CH4O
product | 23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | COC1CC(CC(=CCC(CCC(COC(C2CCCCN2C(C(C2C(CC(C1O2)OC)C)=O)=O)=O)C)=O)C)C | C31H49NO8
